US08212041B2
tert-butyl(6-(2-(triethylsilyl)ethynyl)-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methylcarbamate:
A 1 L-round-bottomed flask flushed with argon was charged with tert-butyl (6-chloro-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methylcarbamate (12.00 g, 42.3 mmol), Pd(dppf)Cl2—CH2Cl2 adduct (3.45 g, 4.23 mmol), copper iodide (2.01 g, 10.6 mmol) at room temperature. Acetonitrile (400 mL) was added followed by triethyl(ethynyl)silane (37.9 ml, 211 mmol). Upon stirring the reaction mixture turned dark red. Triethylamine (177 ml, 1269 mmol) was added via cannula over five minutes. The first drops resulted in a change of color to light yellow/orange. At the end of the addition, the reaction mixture was dark red again. After stirring at 50° C. for one hour, the mixture was cooled to room temperature and concentrated in vacuo. Purification by MPLC (ISCO, EtOAc/MeOH: 100/0 to 90/10) afforded the desired product. The material was taken forward without further purification. MS m/z=388.3 [M+1]+. Calc'd for C19H29N5O2Si: 387.2.

reactant | tert-butyl (6-chloro-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methylcarbamate | 42.3 mmol, 12.00 g | ClC=1C=CC=2N(N1)C(=NN2)CNC(OC(C)(C)C)=O | C11H14ClN5O2
reactant | triethyl(ethynyl)silane | 211 mmol, 37.9 ml | C(C)[Si](C#C)(CC)CC | C8H16Si
reactant | Triethylamine | 1269 mmol, 177 ml | C(C)N(CC)CC | C6H15N
catalyst | Pd(dppf)Cl2 CH2Cl2 | 4.23 mmol, 3.45 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
catalyst | copper iodide | 10.6 mmol, 2.01 g | [Cu](I)I
solvent | Acetonitrile | 400 mL | C(C)#N | C2H3N
product | tert-butyl(6-(2-(triethylsilyl)ethynyl)-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methylcarbamate | C(C)(C)(C)OC(NCC1=NN=C2N1N=C(C=C2)C#C[Si](CC)(CC)CC)=O | C19H29N5O2Si
